US09403798B2
1-(4-Chlorobenzyl)-4-[4-(5-fluoro-2-thioxo-2,3-dihydro-1H-benzo[d]imidazol-1-yl)piperidin-1-yl]-1,3,5-triazin-2(1H)-one
To an acetonitrile solution (1 mL) of 1-(4-chlorobenzyl)-4-hydroxy-1,3,5-triazin-2(1H)-one (20 mg, 0.08 mmol) synthesized in Reference Synthesis Example 10, (benzotriazol-1-yloxy)tripyrrolidino-phosphonium (47 mg, 0.10 mmol) and 1,8-diazabicyclo[5.4.0]undeca-7-ene (15 μL, 0.10 mmol) were added at room temperature and the resultant mixture was stirred for 20 minutes. To the reaction solution, 5-fluoro-1H-benzo[d]imidazole-2(3H)-thione (25 mg, 0.10 mmol) was added and the resultant reaction solution was stirred at 80° C. for 10 minutes. After the completion of the reaction, the reaction solution was concentrated under reduced pressure and the resultant residue was purified by silica gel column chromatography (chloroform/ethyl acetate=1/1 (v/v)) to obtain the title compound (0.8 mg, yield: 2.0%).

reactant | 1-(4-chlorobenzyl)-4-hydroxy-1,3,5-triazin-2(1H)-one | 0.08 mmol, 20 mg | ClC1=CC=C(CN2C(N=C(N=C2)O)=O)C=C1 | C10H8ClN3O2
reactant | (benzotriazol-1-yloxy)tripyrrolidino-phosphonium | 0.10 mmol, 47 mg | N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | 1,8-diazabicyclo[5.4.0]undeca-7-ene | 0.10 mmol, 15 μL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 5-fluoro-1H-benzo[d]imidazole-2(3H)-thione | 0.10 mmol, 25 mg | FC1=CC2=C(NC(N2)=S)C=C1 | C7H5FN2S
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 1-(4-Chlorobenzyl)-4-[4-(5-fluoro-2-thioxo-2,3-dihydro-1H-benzo[d]imidazol-1-yl)piperidin-1-yl]-1,3,5-triazin-2(1H)-one | 0.8 mg, yield: 2.0% | ClC1=CC=C(CN2C(N=C(N=C2)N2CCC(CC2)N2C(NC3=C2C=CC(=C3)F)=S)=O)C=C1 | C22H20ClFN6OS
